US05214142
A process for preparing bis[2-(N,N-dimethylamino)ethyl]ether which comprises (i) contacting 2-(N,N-dimethylamino)ethanol with diethyl carbonate under conditions effective to produce bis[2-(N,N-dimethylamino)ethyl]carbonate, and (ii) contacting bis[2-(N,N-dimethylamino)ethyl]-carbonate with a magnesium:aluminum mixed metal oxide catalyst under conditions effective to produce bis[2-(N,N-dimethylamino)ethyl]ether.

reactant | bis[2-(N,N-dimethylamino)ethyl]-carbonate | CN(C)CCOC(OCCN(C)C)=O | C9H20N2O3
reactant | magnesium | [Mg] | Mg
reactant | aluminum | [Al] | Al
product | bis[2-(N,N-dimethylamino)ethyl]ether | CN(C)CCOCCN(C)C | C8H20N2O
